US06730791B2
Step B: Preparation of [4-(4-Chloro-1-oxobutyl)]-N-methoxy-N-methyl benzeneacetamide
Cool a slurry of aluminum chloride (87 g, 650 mmol) in methylene chloride (100 mL) with an ice bath. Add 4-chlorobutyryl chloride (51 g, 360 mL) dropwise over 0.5 hours. Add N-methoxy-N-methyl-benzeneacetamide (53 g, 300 mmol) over 0.5 hours. Allow the resultant solution to warm to room temperature. Then heat at reflux for 6 hours. Cool the solution to room temperature. Pour the solution into ice (1L) do and add methylene chloride (1 L). Separate the organic phase. Extract the aqueous phase with methylene chloride (2×500 mL). Dry the combined organics over anhydrous magnesium sulfate and concentrate to provide a solid which contains a ca. 1:1 mixture of the title compound and the meta isomer.

reactant | aluminum chloride | 650 mmol, 87 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 360 mL, 51 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | N-methoxy-N-methyl-benzeneacetamide | 300 mmol, 53 g | CON(C(CC1=CC=CC=C1)=O)C | C10H13NO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | [4-(4-Chloro-1-oxobutyl)]-N-methoxy-N-methyl benzeneacetamide | ClCCCC(=O)C1=CC=C(C=C1)CC(=O)N(C)OC | C14H18ClNO3
